US07166617B2
a) 1-(3-Hydroxypropyl)-3,4-dihydroquinolin-2(1H)-one
3,4-Dihydro-2(1H)-quinolinone (1.20 g, 8.15 mmol) was dissolved in dimethylformamide (10 ml), and the solution was added with 60% sodium hydride (376 mg, 9.40 mmol) at room temperature and stirred at the same temperature for 30 minutes. The mixture was added with 2-(3-bromopropoxy)tetrahydro-2H-pyran (1.94 g, 8.70 mmol) and heated at 70° C. for 1 hour. The reaction mixture was cooled to room temperature and diluted with water, and then extracted with a mixed solvent of ethyl acetate-hexane. The extract was washed with saturated brine and dried over magnesium sulfate. Insoluble solids were removed by filtration and the filtrate was concentrated under reduced pressure. The resulting oil was dissolved in methanol (90 ml) and the solution was added with a catalytic amount of p-toluenesulfonic acid and stirred at room temperature for 19 hours. The reaction solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate. The mixture was washed with saturated aqueous sodium bicarbonate solution and then with saturated brine, and dried over magnesium sulfate. Insoluble solids were removed by filtration and the filtrate was concentrated under reduced pressure. The resulting oil was purified by silica gel column chromatography (ethyl acetate-hexane) to obtain the title compound as colorless oil (1.47 g, yield: 88%).

reactant | 3,4-Dihydro-2(1H)-quinolinone | 8.15 mmol, 1.20 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | sodium hydride | 9.40 mmol, 376 mg | [H-].[Na+]
reactant | 2-(3-bromopropoxy)tetrahydro-2H-pyran | 8.70 mmol, 1.94 g | BrCCCOC1OCCCC1 | C8H15BrO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(3-Hydroxypropyl)-3,4-dihydroquinolin-2(1H)-one | 1.47 g, yield: 88% | OCCCN1C(CCC2=CC=CC=C12)=O | C12H15NO2
